US09233981B1
(4aR,6R,8aS)-2-(Benzoylamino)-8a-(2,4-difluorophenyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazine-6-carboxylic acid (P2)
Tetrapropylammonium perruthenate (1.09 g, 3.10 mmol) was added to a mixture of N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(hydroxymethyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (P1) (13.0 g, 31.1 mmol) and 4-methylmorpholine N-oxide monohydrate (25.2 g, 186 mmol) in acetonitrile (207 mL), and the reaction mixture was stirred for 90 minutes at room temperature. After addition of 2-propanol (100 mL), it was stirred for an additional 2 hours and then concentrated in vacuo. The residue was partitioned between ethyl acetate and 0.5 M aqueous sodium hydroxide solution. The organic layer was extracted twice with 0.5 M aqueous sodium hydroxide solution, and the combined aqueous layers were acidified to a pH of approximately 1 with 2 M aqueous hydrochloric acid, then extracted three times with ethyl acetate. The combined ethyl acetate layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure; the residue was dissolved in dichloromethane, washed with water and with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated in vacuo. Purification via chromatography on silica gel (Gradient: 0% to 20% methanol in dichloromethane) provided the product as a reddish solid. Yield: 12.36 g, 28.58 mmol, 92%. LCMS m/z 433.2 [M+H+]. 1H NMR (400 MHz, CD3OD) δ 8.09-8.13 (m, 2H), 7.52-7.57 (m, 1H), 7.43-7.51 (m, 3H), 7.03-7.11 (m, 2H), 4.35 (dd, J=11.2, 3.4 Hz, 1H), 4.19 (dd, J=12.0, 1.4 Hz, 1H), 3.97 (d, J=12.1 Hz, 1H), 3.20-3.27 (m, 1H), 2.96 (dd, half of ABX pattern, J=13.1, 4.0 Hz, 1H), 2.78 (dd, half of ABX pattern, J=13.2, 2.8 Hz, 1H), 2.03-2.15 (m, 2H).

reactant | N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(hydroxymethyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 31.1 mmol, 13.0 g | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)CO)NC(C2=CC=CC=C2)=O | C21H20F2N2O3S
reactant | 4-methylmorpholine N-oxide monohydrate | 186 mmol, 25.2 g | O.C[N+]1(CCOCC1)[O-]
reactant | 2-propanol | 100 mL | CC(C)O | C3H8O
solvent | acetonitrile | 207 mL | C(C)#N | C2H3N
catalyst | Tetrapropylammonium perruthenate | 3.10 mmol, 1.09 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | (4aR,6R,8aS)-2-(Benzoylamino)-8a-(2,4-difluorophenyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazine-6-carboxylic acid | C(C1=CC=CC=C1)(=O)NC=1SC[C@H]2[C@@](N1)(CO[C@H](C2)C(=O)O)C2=C(C=C(C=C2)F)F | C21H18F2N2O4S
